US06936607B2
2,6-DICHLORO-N-(3,4-DICHLOROPHENYL)-4-PYRIMIDINAMINE:
A solution of 3,4-dichloroaniline (8.87 g, 54.8 mmol) in ethanol (40 mL) was added to a solution of 2,4,6-trichloropyrimidine (10.0 g, 54.8 mmol) in ethanol (20 mL) followed by aqueous Na2CO3 (4.61 g, 43.5 mmol) at 0° C. The reaction mixture was stirred at room temperature overnight. The crude mixture was diluted with water (100 mL), and the resulting precipitate was filtered and dried (10.2 g, 61%). ESI-MS m/z: 307 (MH+).

reactant | 3,4-dichloroaniline | 54.8 mmol, 8.87 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | 2,4,6-trichloropyrimidine | 54.8 mmol, 10.0 g | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | Na2CO3 | 43.5 mmol, 4.61 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 100 mL | O | H2O
product | 2,6-DICHLORO-N-(3,4-DICHLOROPHENYL)-4-PYRIMIDINAMINE | ClC1=NC(=CC(=N1)NC1=CC(=C(C=C1)Cl)Cl)Cl | C10H5Cl4N3
